US04559403
To a stirred solution of 21.6 g of N,N-dibenzyl-N'-(2-methoxyphenyl)-ethylenediamine in 400 ml methylene chloride was added 12.9 g of sodium carbonate. To this mixture, a solution of 8.42 g of chloroacetylchloride in 100 ml methylene chloride was added dropwise over 30 minutes and stirred for 1 hour. Water (500 ml) was added, the organic phase separated, washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue (27.9 g) in a flask was immersed in a 180° oil bath and the formed benzylchloride removed by distillation. The crude material was chromatrographed on 250 g silica gel using ether for elution. The appropriate fractions were evaporated to dryness and the solid recrystallized from isopropylether to yield 11.0 g 4-benzyl-1-(2-methoxyphenyl)-2-piperazinone in the form of yellowish crystals, mp 109°-111°, pure by TLC (ether on silica gel).

reactant | N,N-dibenzyl-N'-(2-methoxyphenyl)-ethylenediamine | 21.6 g | C(C1=CC=CC=C1)N(CCNC1=C(C=CC=C1)OC)CC1=CC=CC=C1 | C23H26N2O
reactant | sodium carbonate | 12.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroacetylchloride | 8.42 g | ClCC(=O)Cl | C2H2Cl2O
reactant | Water | 500 ml | O | H2O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-benzyl-1-(2-methoxyphenyl)-2-piperazinone | 11.0 g | C(C1=CC=CC=C1)N1CC(N(CC1)C1=C(C=CC=C1)OC)=O | C18H20N2O2
